US09388189B2
(S)—N-(3-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-5-hydroxyphenyl)-4-fluorobenzenesulfonamide
(S)-2-(1-((6-Amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (50 mg, 0.11 mmol) was treated with 4-fluoro-N-(3-hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)benzenesulfonamide (69 mg, 0.18 mmol), cesium carbonate (2M, 180 μl, 0.36 mmol) and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (10 mg, 0.01 mmol) according to the method described in Example 3 to give 42 mg (56% yield) of the title compound. Purity 95%.

reactant | (S)-2-(1-((6-Amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.11 mmol, 50 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)Br | C19H18BrN7O
reactant | 4-fluoro-N-(3-hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)benzenesulfonamide | 0.18 mmol, 69 mg | FC1=CC=C(C=C1)S(=O)(=O)NC1=CC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)O | C18H21BFNO5S
reactant | cesium carbonate | 0.36 mmol, 2M, 180 μl | C([O-])([O-])=O.[Cs+].[Cs+]
product | (S)—N-(3-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-5-hydroxyphenyl)-4-fluorobenzenesulfonamide | 42 mg, 56% yield | NC1=NC=NC(=C1C=1C=C(C=C(C1)O)NS(=O)(=O)C1=CC=C(C=C1)F)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C31H27FN8O4S
